US06720329B2
Trifluoromethanesulfonic anhydride (1.2 mL, 7.4 mmol)was added drop wise to a stirring solution of chroman-4-one (1.0 g, 6.7 mmol), 2,6-di-t-butyl-4-methyl pyridine (1.59 g, 7.7 mmol) in dichloromethane (40 mL), under nitrogen atmosphere. The reaction was heated to reflux for 2 h, allowed to cool to room temperature and was concentrated in vacuo to give a semi solid residue. This was treated with hexane and the solids were filtered off. The filtrate was concentrated to give 4-[(trifluoromethyl)sulfonyl]-2H-chromene (1.78 g, 94%) as an orange oil.

reactant | Trifluoromethanesulfonic anhydride | 7.4 mmol, 1.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | chroman-4-one | 6.7 mmol, 1.0 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | 2,6-di-t-butyl-4-methyl pyridine | 7.7 mmol, 1.59 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-[(trifluoromethyl)sulfonyl]-2H-chromene | 1.78 g, 94% | FC(S(=O)(=O)C1=CCOC2=CC=CC=C12)(F)F | C10H7F3O3S
